** sch_path: /home/tim/gits/cheetah_v3_analog/dependencies/sky130_ef_ip__ccomp3v/xschem/sky130_ef_ip__ccomp3v.sch
.subckt sky130_ef_ip__ccomp3v VOUT DVDD DVSS VDD VSS VINP VINM
*.PININFO VDD:I VOUT:O VSS:I VINP:I VINM:I DVDD:I DVSS:I
x1 VDD VBP VBN VSS VINP VOUT VINM DVDD comparator_core
x2 VDD VSS VBP VBN comparator_bias
.ends

* expanding   symbol:  comparator_core.sym # of pins=8
** sym_path: /home/tim/gits/cheetah_v3_analog/dependencies/sky130_ef_ip__ccomp3v/xschem/comparator_core.sym
** sch_path: /home/tim/gits/cheetah_v3_analog/dependencies/sky130_ef_ip__ccomp3v/xschem/comparator_core.sch
.subckt comparator_core VDD VBP VBN VSS VINP VOUT VINM DVDD
*.PININFO VINP:I VINM:I VBN:I VBP:I VDD:B VSS:B VOUT:O DVDD:B
XM3 net10 VBN VSS VSS sky130_fd_pr__nfet_g5v0d10v5 L=2 W=5 nf=1 m=2
XM4 net4 net4 VSS VSS sky130_fd_pr__nfet_g5v0d10v5 L=3 W=5 nf=1 m=2
XM5 net11 net4 VSS VSS sky130_fd_pr__nfet_g5v0d10v5 L=3 W=15 nf=3 m=2
XM6 net3 net3 VDD VDD sky130_fd_pr__pfet_g5v0d10v5 L=2 W=5 nf=1 m=2
XM7 net2 net2 VDD VDD sky130_fd_pr__pfet_g5v0d10v5 L=2 W=5 nf=1 m=2
XM8 net4 net3 VDD VDD sky130_fd_pr__pfet_g5v0d10v5 L=3 W=5 nf=1 m=2
XM9 VOUTANALOG net2 VDD VDD sky130_fd_pr__pfet_g5v0d10v5 L=3 W=15 nf=3 m=2
XM10 net6 VINM net5 VDD sky130_fd_pr__pfet_g5v0d10v5 L=2 W=5 nf=1 m=4
XM11 net7 VINP net5 VDD sky130_fd_pr__pfet_g5v0d10v5 L=2 W=5 nf=1 m=4
XM12 net12 VBP VDD VDD sky130_fd_pr__pfet_g5v0d10v5 L=2 W=5 nf=1 m=2
XM13 net8 net8 VDD VDD sky130_fd_pr__pfet_g5v0d10v5 L=2 W=5 nf=1 m=2
XM14 VOUTANALOG net8 VDD VDD sky130_fd_pr__pfet_g5v0d10v5 L=2 W=15 nf=3 m=2
XM15 net6 net6 VSS VSS sky130_fd_pr__nfet_g5v0d10v5 L=2 W=5 nf=1 m=2
XM16 net7 net7 VSS VSS sky130_fd_pr__nfet_g5v0d10v5 L=2 W=5 nf=1 m=2
XM17 net8 net6 VSS VSS sky130_fd_pr__nfet_g5v0d10v5 L=2 W=5 nf=1 m=2
XM18 VOUTANALOG net7 VSS VSS sky130_fd_pr__nfet_g5v0d10v5 L=2 W=15 nf=3 m=2
XM19 net9 VOUTANALOG VDD VDD sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=20 nf=4 m=1
XM20 net9 VOUTANALOG VSS VSS sky130_fd_pr__nfet_g5v0d10v5 L=2 W=5 nf=1 m=1
XM21 VOUT net9 DVDD VDD sky130_fd_pr__pfet_g5v0d10v5 L=2 W=10 nf=1 m=1
XM22 VOUT net9 VSS VSS sky130_fd_pr__nfet_g5v0d10v5 L=2 W=5 nf=1 m=1
XM23 net1 VSS VSS VSS sky130_fd_pr__nfet_g5v0d10v5 L=2 W=5 nf=1 m=2
XM24 net5 VDD VDD VDD sky130_fd_pr__pfet_g5v0d10v5 L=2 W=5 nf=1 m=2
XM25 VSS VSS VSS VSS sky130_fd_pr__nfet_g5v0d10v5 L=2 W=5 nf=1 m=11
XM26 VDD VDD VDD VDD sky130_fd_pr__pfet_g5v0d10v5 L=2 W=5 nf=1 m=11
XM1 net3 VINM net1 VSS sky130_fd_pr__nfet_g5v0d10v5 L=2 W=5 nf=1 m=4
XM2 net2 VINP net1 VSS sky130_fd_pr__nfet_g5v0d10v5 L=2 W=5 nf=1 m=4
XM27 net1 VBP net10 VSS sky130_fd_pr__nfet_g5v0d10v5 L=8 W=5 nf=1 m=2
XM28 VOUTANALOG VBP net11 VSS sky130_fd_pr__nfet_g5v0d10v5 L=1.75 W=5 nf=1 m=2
XM29 net5 VBN net12 VDD sky130_fd_pr__pfet_g5v0d10v5 L=8 W=5 nf=1 m=2
.ends


* expanding   symbol:  comparator_bias.sym # of pins=4
** sym_path: /home/tim/gits/cheetah_v3_analog/dependencies/sky130_ef_ip__ccomp3v/xschem/comparator_bias.sym
** sch_path: /home/tim/gits/cheetah_v3_analog/dependencies/sky130_ef_ip__ccomp3v/xschem/comparator_bias.sch
.subckt comparator_bias VDD VSS VBP VBN
*.PININFO VBP:O VBN:O VDD:B VSS:B
XM3 net1 net2 VDD VDD sky130_fd_pr__pfet_g5v0d10v5 L=2 W=20 nf=1 m=1
XM4 VBN net1 net2 VDD sky130_fd_pr__pfet_g5v0d10v5 L=2 W=20 nf=1 m=1
XM5 VBN VBN net2 VDD sky130_fd_pr__pfet_g5v0d10v5 L=15 W=1 nf=1 m=1
XM7 VBP VBP VDD VDD sky130_fd_pr__pfet_g5v0d10v5 L=1 W=4 nf=1 m=1
XM1 VBN VBN VSS VSS sky130_fd_pr__nfet_g5v0d10v5 L=2 W=5 nf=1 m=1
XM2 net1 VBN VSS VSS sky130_fd_pr__nfet_g5v0d10v5 L=2 W=5 nf=1 m=1
XM6 VBP VBN VSS VSS sky130_fd_pr__nfet_g5v0d10v5 L=2 W=5 nf=1 m=1
XM8 VBN VSS VSS VSS sky130_fd_pr__nfet_g5v0d10v5 L=2 W=5 nf=1 m=1
XM9 net1 VSS VSS VSS sky130_fd_pr__nfet_g5v0d10v5 L=2 W=5 nf=1 m=1
XM10 VBP VSS VSS VSS sky130_fd_pr__nfet_g5v0d10v5 L=2 W=5 nf=1 m=1
XR2 net2 VDD VDD sky130_fd_pr__res_high_po_1p41 L=140 mult=1 m=1
.ends

.end
